US07626042B2
(2) 5-Bromo-N-[3-methoxy-5-(trifluoromethyl)phenyl]-2-[(morpholinocarbonyl)oxy]-benzamide(Compound No. 87)
Using 5-bromo-2-hydroxy-N-[3-methoxy-5-(trifluoromethyl)phenyl]benzamide and morpholine-4-carbonyl chloride as the raw materials, the same operation as the Example 71 gave the title compound.

reactant | 5-bromo-2-hydroxy-N-[3-methoxy-5-(trifluoromethyl)phenyl]benzamide | BrC=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)OC)C1)O | C15H11BrF3NO3
reactant | morpholine-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | 5-Bromo-N-[3-methoxy-5-(trifluoromethyl)phenyl]-2-[(morpholinocarbonyl)oxy]-benzamide | Yield: 85.8% | BrC=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)OC)C1)OC(=O)N1CCOCC1 | C20H18BrF3N2O5
